### PR TITLE
feat(Analysis/Calculus): parametric integrals over smooth functions are smooth

### PR DESCRIPTION
**Pull request by peabrainiac**
Show that for any smooth function `f : H × ℝ → E`, the parametric integral `fun x ↦ ∫ t in a..b, f (x, t) ∂μ` is smooth too.

The argument proceeds inductively, using the fact that derivatives of parametric integrals can themselves be computed as parametric integrals. The necessary lemmas on derivatives of parametric integrals already existed, but took some work to apply due to their generality; we state some convenient special cases.

---

- [x] depends on: #31077

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 1]
```diff
@@ -249,6 +258,63 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
         bound_integrable.2 h_diff.2)
 
+/-- A convenient special case of `hasFDerivAt_integral_of_dominated_of_fderiv_le`:
+if there exist a neighbourhood `u` of `x₀` and a compact set `k` such that `f : H × α → E` is
+continuous and continuously differentiable in the first argument on `u ×ˢ k`, then a derivative of
+`fun x => ∫ t in k, f (x, t) ∂μ` in `x₀` can be computed as
+`∫ t in k, fderiv 𝕜 (fun x ↦ f (x, t)) x₀ ∂μ`. -/
+theorem hasFDerivAt_integral_of_continuousOn_fderiv [TopologicalSpace α] [T2Space α]
+    [OpensMeasurableSpace α] [SecondCountableTopology α] [IsFiniteMeasureOnCompacts μ]
+    [IsLocallyFiniteMeasure μ] {f : H × α → E} {x₀ : H} {u : Set H} (hu : u ∈ 𝓝 x₀) {k : Set α}
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean]: All the other results in this file are written in curried form, i.e., for `F : H → α → E`. Could you do the same here (maybe even keeping the same notation to help the reader)? Same thing elsewhere.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 2]
```diff
@@ -249,6 +258,63 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
       (hasFDerivAt_integral_of_dominated_of_fderiv_le ε_pos hF_meas.2 hF_int.2 hF'_meas.2 h_bound.2
         bound_integrable.2 h_diff.2)
 
+/-- A convenient special case of `hasFDerivAt_integral_of_dominated_of_fderiv_le`:
+if there exist a neighbourhood `u` of `x₀` and a compact set `k` such that `f : H × α → E` is
+continuous and continuously differentiable in the first argument on `u ×ˢ k`, then a derivative of
+`fun x => ∫ t in k, f (x, t) ∂μ` in `x₀` can be computed as
+`∫ t in k, fderiv 𝕜 (fun x ↦ f (x, t)) x₀ ∂μ`. -/
+theorem hasFDerivAt_integral_of_continuousOn_fderiv [TopologicalSpace α] [T2Space α]
+    [OpensMeasurableSpace α] [SecondCountableTopology α] [IsFiniteMeasureOnCompacts μ]
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean]: Do you really need the second countable topology assumption on alpha? I would expect that, on a compact space, any function is AEStronglyMeasurable, regardless of second countability.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 3]
```diff
@@ -249,6 +258,63 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    [IsLocallyFiniteMeasure μ] {f : H × α → E} {x₀ : H} {u : Set H} (hu : u ∈ 𝓝 x₀) {k : Set α}
+    (hk : IsCompact k) (hF₁ : ContinuousOn f (u ×ˢ k))
+    (hF₂ : ∀ t ∈ k, DifferentiableOn 𝕜 (fun x ↦ f (x, t)) u)
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean]: You have an assumption `IsFiniteMeasureOnCompacts μ`, but as far as I can tell it's only used to check the weaker fact that the measure of k is finite. Maybe give first a version assuming only that the measure of k is finite, and then a second version with `IsFiniteMeasureOnCompacts`?

File: Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean [hunk 4]
```diff
@@ -110,4 +113,113 @@ nonrec theorem hasDerivAt_integral_of_dominated_loc_of_deriv_le
     bound_integrable h_diff
   exact ⟨this.1, this.2.const_smul _⟩
 
+/-- A convenient special case of `intervalIntegral.hasFDerivAt_integral_of_dominated_of_fderiv_le`:
+if there exists a neighbourhood `u` of `x₀` such that `f : H × ℝ → E` is continuous on
+`u ×ˢ [[a, b]]` and differentiable on `u` in the first argument for every `t ∈ [[a, b]]` and that
+derivative is continuous on `u ×ˢ [[a, b]]`, then a derivative of
+`fun x => ∫ t in a..b, f (x, t) ∂μ` in `x₀` can be computed as
+`∫ t in a..b, fderiv 𝕜 (fun x ↦ f (x, t)) x₀ ∂μ`. -/
+nonrec theorem hasFDerivAt_integral_of_continuousOn_fderiv [IsLocallyFiniteMeasure μ] [NoAtoms μ]
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean]: can you avoid the nonrec by using the right namespaces inside the proof? nonrec can be confusing sometimes.

File: Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean [hunk 5]
```diff
@@ -110,4 +113,113 @@ nonrec theorem hasDerivAt_integral_of_dominated_loc_of_deriv_le
...
+      (by fun_prop) (by exact fun y hy ↦ ⟨hy, hx.2⟩) (hu'.uniqueDiffWithinAt hx.1)]
+    congr
+    exact (hasFDerivAt_prodMk_left _ x.2).hasFDerivWithinAt.fderivWithin
+      (hu'.uniqueDiffWithinAt hx.1)
+
+/-- If `f : H × ℝ → E` is Cⁿ on `u ×ˢ [[a, b]]`, the parametric integral
+`fun x ↦ ∫ t in a..b, f (x, t) ∂μ` is Cⁿ on `u` too. -/
+lemma _root_.ContDiffOn.parametric_intervalIntegral {μ : Measure ℝ} [IsLocallyFiniteMeasure μ]
+    [NoAtoms μ] {E H : Type u} [NormedAddCommGroup E] [NormedSpace ℝ E] [NormedAddCommGroup H]
+    [NormedSpace ℝ H] {f : H × ℝ → E} {u : Set H} (hu : IsOpen u) {a b : ℝ} {n : ℕ∞}
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean]: You're excluding n=omega, i.e., the analytic case. Is the statement wrong in this case, or is it just that your proof doesn't go through?

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean (hunk 2 above)
Comment (peabrainiac) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean]: Well spotted, thanks - I don't work with general measure spaces much, so I just wrote down what seemed reasonable from the examples I had at hand. I removed the two assumptions now.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean (hunk 3 above)
Comment (peabrainiac) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean]: These files already contain a lot of variants of the same / very similar lemmas, so I would rather avoid adding even more - I've replaced the `IsFiniteMeasureOnCompacts μ` assumption in this lemma with `μ k < ⊤` now, but kept the `IsLocallyFiniteMeasure μ` instances in the later lemmas for convenience.

File: Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean (hunk 5 above)
Comment (peabrainiac) [reply Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean]: I would hope that the lemma holds in the analytic case too, but honestly haven't thought too much about proving it - the proof I have here proceeds using induction, so it doesn't really generalise to n = ω. I think expanding the lemma to that case would probably take a lot more work.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 6]
```diff
@@ -44,6 +44,15 @@ variable.
   derivative `F' x a` for `x` near `x₀` and `F' x` is bounded by an integrable function independent
   from `x` near `x₀`.
 
+* `hasFDerivAt_integral_of_continuousOn_fderiv`: this version assumes that `F : H × α → E` is
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean]: Can you also use uncurried functions throughout the docstrings, here and elsewhere?

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 7]
```diff
@@ -249,6 +258,64 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+  have hk'' : MeasurableSet k := hk.measurableSet
+  have := isCompact_iff_compactSpace.1 hk
+  simp_rw [← integral_subtype_comap hk'']
+  refine hasFDerivAt_integral_of_dominated_of_fderiv_le (bound := fun _ ↦ B)
+    (F' := fun x (t : k) ↦ fderiv 𝕜 (fun x ↦ f x t) x) hε ?_ ?_ ?_ ?_ ?_ ?_
+  · refine eventually_nhds_iff.2 ⟨u, fun x hx ↦ ?_, hu', hxu⟩
+    refine Continuous.aestronglyMeasurable_of_compactSpace ?_
+    exact (hF₁.uncurry_left x hx).comp_continuous (by fun_prop) (by simp)
+  · have : IsFiniteMeasure (Measure.comap ((↑) : k → α) μ) :=
+      ⟨by simp [(MeasurableEmbedding.subtype_coe hk'').comap_apply, hk']⟩
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean]: You're using this finiteness twice, here and below. If you move this `have` to Line 300, you will only need to give it once.

File: Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean [hunk 8]
```diff
@@ -110,4 +113,112 @@ nonrec theorem hasDerivAt_integral_of_dominated_loc_of_deriv_le
...
+    hu isCompact_uIcc isCompact_uIcc.measure_lt_top hF₁ hF₂ hF₃
+
+/-- A convenient special case of `intervalIntegral.hasFDerivAt_integral_of_dominated_of_fderiv_le`:
+if `f.uncurry : H × ℝ → E` is continuously differentiable on `u ×ˢ [[a, b]]` for a neighbourhood `u`
+of `x₀`, then a derivative of `fun x => ∫ t in a..b, f x t ∂μ` in `x₀` can be computed as
+`∫ t in a..b, fderiv ℝ (fun x ↦ f x t) x₀ ∂μ`. -/
+theorem hasFDerivAt_integral_of_contDiffOn [IsLocallyFiniteMeasure μ] [NoAtoms μ] {E : Type*}
+    [NormedAddCommGroup E] [NormedSpace ℝ E] {H : Type*} [NormedAddCommGroup H]
+    [NormedSpace ℝ H] {f : H → ℝ → E} {x₀ : H} {u : Set H} (hu : u ∈ 𝓝 x₀) {a b : ℝ}
+    (hF : ContDiffOn ℝ 1 f.uncurry (u ×ˢ [[a, b]])) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean:145]: You're giving this statement (with assumption `ContDiffOn`) only for interval integrals, but wouldn't it make sense to give it as a version of your general `hasFDerivAt_integral_of_continuousOn_fderiv`?

File: Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean [hunk 9]
```diff
@@ -110,4 +113,112 @@ nonrec theorem hasDerivAt_integral_of_dominated_loc_of_deriv_le
...
+      (by fun_prop) (by exact fun y hy ↦ ⟨hy, hx.2⟩) (hu'.uniqueDiffWithinAt hx.1)]
+    congr
+    exact (hasFDerivAt_prodMk_left _ x.2).hasFDerivWithinAt.fderivWithin
+      (hu'.uniqueDiffWithinAt hx.1)
+
 end intervalIntegral
+
+/-- If `f.uncurry : H × ℝ → E` is Cⁿ on `u ×ˢ [[a, b]]`, the parametric integral
+`fun x ↦ ∫ t in a..b, f x t ∂μ` is Cⁿ on `u` too. -/
+lemma ContDiffOn.parametric_intervalIntegral {μ : Measure ℝ} [IsLocallyFiniteMeasure μ]
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean:160]: ditto: doesn't it hold in the more general context of set integrals, with basically the same proof?

**Review by sgouezel — COMMENTED** [review]
That's very nice, thanks! I wonder if it would make sense to have your statements in a general form for set integrals over compact sets, and only specialize it to interval integrals afterwards. What do you think?

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean (hunk 7 above)
Comment (peabrainiac) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean]: Good catch, thanks!

File: Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean (hunk 9 above)
Comment (peabrainiac) [reply Mathlib/Analysis/Calculus/ParametricIntervalIntegral.lean:160]: I've pushed generalisations of these theorems to the case of integrals over compact subsets of normed spaces now. That actually turned out to take quite a bit more effort that I first thought - the arguments in the $C^n$ case for $n\ge1$ generalised just fine, but the case $n=0$ previously used a lemma from `Mathlib.MeasureTheory.Integral.DominatedConvergence` that had only been done in the case of interval integrals as far as I could tell, so I had to add several more lemmas there.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 10]
```diff
@@ -249,6 +260,136 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+      exact ((hF.differentiableOn le_rfl).comp (by fun_prop) (fun y hy ↦ ⟨hy, hx.2⟩))]
+    rw [fderivWithin_comp _ (t := u ×ˢ k) (hF.differentiableOn (by simp) _ ⟨hx.1, hx.2⟩)
+      (by fun_prop) (by exact fun y hy ↦ ⟨hy, hx.2⟩) (hu'.uniqueDiffWithinAt hx.1)]
+    congr
+    exact (hasFDerivAt_prodMk_left _ x.2).hasFDerivWithinAt.fderivWithin
+      (hu'.uniqueDiffWithinAt hx.1)
+
+/-- If `f.uncurry : H × H' → E` is Cⁿ on `u ×ˢ k` for an open set `u` and a compact set `k`,
+the parametric integral `fun x ↦ ∫ a in k f x a ∂μ` is Cⁿ on `u` too. -/
+lemma ContDiffOn.parametric_integral {E : Type u} [NormedAddCommGroup E] [NormedSpace ℝ E]
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean]: You're assuming that `E` and `H` are in the same universe, but the statement should be true without this assumption. A possible proof is to prove it first assuming that the universes are the same to enable the induction, as you're doing now, and then generalizing the universe by using isometric equivalences with lifyed spaces in a common universe. Another possibility (which is probably nicer as it would make it possible to avoid the unique diff assumption on k) is to show that if `f` has a Taylor series of order `n`, then the integral over k also has a Taylor series obtained by integrating the Taylor series of `f`. So no induction, but a direct proof still relying on the above lemmas to prove that the Taylor properties is satisfied by the integral.

Comment (sgouezel) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean]: I realize that this is maybe too hard to do if you're not familiar with the ContDiffOn definitions and API. If you want, I can have a go at it, just tell me!

Comment (peabrainiac) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean]: That would be great - I don't have too much time to spend on this right now, so I could only offer to generalise the universes using the first method you mentioned otherwise.

Comment (sgouezel) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean]: ok, let me have a look.

**Comment by sgouezel** [comment]
#33460 has been merged into master, so I think you can merge back the changes of #33384 now in your branch and adjust whatever you want. Tell me once it's done so that I can review the PR.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 11]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    · apply Integrable.mono' (bound_integrable 0 (by simp)) (hF_meas x hx 0 (by simp))
+      filter_upwards [h_bound] with a ha using ha x hx 0 (by simp)
+  · intro i hi x hx
+    have h'i : (i + 1 : ℕ) ≤ n := ENat.add_one_natCast_le_withTop_of_lt hi
+    apply HasFDerivAt.hasFDerivWithinAt
+    change HasFDerivAt (fun x ↦ ∫ a, p x a i ∂μ)
+      ((continuousMultilinearCurryLeftEquiv 𝕜 (fun i ↦ H) E).toContinuousLinearEquiv
+        (∫ a, p x a i.succ ∂μ)) x
+    -- next line should not be necessary...
+    let A : NormedSpace ℝ (H →L[𝕜] (H [×i]→L[𝕜] E)) := ContinuousLinearMap.toNormedSpace
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:404]: Is it necessary here because it times out without it? or why? some added context would be helpful.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 12]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    · intro z hz
+      exact oo'w ⟨hz, hy.2⟩
+  apply ContinuousWithinAt.congr_of_mem ?_ this xoo'
+  have := (hp.cont 1 le_rfl).mono oo'w x xoo'
+  fun_prop
+
+/-- Iterated differentiation under integral of `x ↦ ∫ F x a` on an open set `s`, assuming that each
+function `x ↦ F x a` has a Taylor series of order `n`, with uniform integrability conditions on
+the successive derivatives. -/
+theorem hasFTaylorSeriesOn_integral_of_le_bound {n : WithTop ℕ∞} {bound : ℕ → α → ℝ}
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:381]:
```suggestion
theorem hasFTaylorSeriesUpToOn_integral_of_le_bound {n : WithTop ℕ∞} {bound : ℕ → α → ℝ}
```

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 13]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    apply continuousOn_of_dominated (bound := bound i)
+    · intro y hy
+      exact hF_meas y hy i hi
+    · intro y hy
+      filter_upwards [h_bound] with a ha using ha y hy i hi
+    · apply bound_integrable i hi
+    · filter_upwards [h_diff] with a ha using ha.cont i hi
+
+open ContinuousMultilinearMap in
+theorem hasFTaylorSeriesOn_setIntegral_of_le_const
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:429]:
```suggestion
theorem hasFTaylorSeriesUpToOn_setIntegral_of_le_const
```

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 14]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+given any finite-measure subset `s₀` of `k` the parametric integral `fun x ↦ ∫ a in s₀, f x a ∂μ`
+is `Cⁿ` on `u` too. -/
+lemma ContDiffOn.parametric_integral
+    {μ : Measure H'} {f : H → H' → E} {u : Set H} (hu : IsOpen u)
+    {s₀ k : Set H'} (hk : IsCompact k) {n : ℕ∞} (hs₀ : s₀ ⊆ k)
+    (hf : ContDiffOn 𝕜 n f.uncurry (u ×ˢ k)) (mus₀ : μ s₀ ≠ ⊤) :
+    ContDiffOn 𝕜 n (fun x ↦ ∫ a in s₀, f x a ∂μ) u := by
+  /- Locally, this is already proved in `hasFTaylorSeriesOn_setIntegral_of_le_const` (which moreover
+  gives a formula for the successive derivatives). To globalize, one covers the compact set `k`
+  with finitely many sets on which the local property golds. Technically, this is more conveniently
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:476]:
```suggestion
  with finitely many sets on which the local property holds. Technically, this is more conveniently
```

**Review by j-loreaux — COMMENTED** [review]
I really don't have a lot to say here. To my eyes, it looks pretty good, but I'm not a specialist in the calculus end of the library.

maintainer delegate

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 15]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    (F' := fun x a ↦ fderiv 𝕜 (fun x ↦ F x a) x) (ball_mem_nhds x₀ hε)
+  · refine eventually_nhds_iff.2 ⟨u, fun x hx ↦ ?_, hu', hxu⟩
+    apply (hF₁.uncurry_left _ hx).aestronglyMeasurable_of_subset_isCompact hk hs hsk
+  · apply (hF₁.uncurry_left _ hxu).integrableOn_of_subset_isCompact hk hs hsk hs'
+  · apply (hF₃.uncurry_left _ hxu).aestronglyMeasurable_of_subset_isCompact hk hs hsk
+  · filter_upwards [ae_restrict_mem hs] with a ha x hx using (hB (x, a) ⟨hx, hsk ha⟩).le
+  · apply integrableOn_const hs'
+  · filter_upwards [ae_restrict_mem hs] with a ha x hx
+    apply DifferentiableAt.hasFDerivAt
+    exact (hF₂ a (hsk ha) x (hε' hx)).differentiableAt (hu'.mem_nhds (hε' hx))
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:316]: Here is a bit of a golf
```suggestion
  have hxu := mem_of_mem_nhds hu
  let F' := fun x : H × α ↦ ‖fderiv 𝕜 (fun y ↦ F y x.2) x.1‖
  have hF' : ContinuousOn F' _ := continuous_norm.comp_continuousOn hF₃
  -- via a compactness argument, find an `ε > 0` such that `F'` is bounded on `ball x₀ ε × k`
  let ⟨v, hxv, hvu, hv, B, hB⟩ :
      ∃ v : Set H, x₀ ∈ v ∧ v ⊆ u ∧ IsOpen v ∧ ∃ B, ∀ x ∈ v ×ˢ k, F' x < B := by
    let ⟨B, hB⟩ := (isCompact_singleton.prod hk).bddAbove_image <|
      hF'.mono <| prod_mono_left <| singleton_subset_iff.2 hxu
    have ⟨v, hv, hv'⟩ := generalized_tube_lemma_left (s := {x₀}) isCompact_singleton
      hk (s' := u) (n := F' ⁻¹' (Iio (B + 1))) (by
        refine nhdsSetWithin_mono_left ?_ <| hF'.preimage_mem_nhdsSetWithin_of_mem_nhdsSet
          (t := Iic B) (u := Iio (B + 1)) <| isOpen_Iio.mem_nhdsSet.2 (by simp)
        intro x hx
        exact ⟨prod_mono_left (by simp [hxu]) hx, mem_upperBounds.1 hB _ <| mem_image_of_mem _ hx⟩)
    rw [nhdsSetWithin_singleton, nhdsWithin_eq_nhds.mpr hu] at hv
    obtain ⟨w, hwuv, hw, hxw⟩ := _root_.mem_nhds_iff.mp <| Filter.inter_mem hu hv
    exact ⟨w, hxw, hwuv.trans inter_subset_left, hw, B + 1,
      fun x hx ↦ hv' <| prod_mono_left (hwuv.trans inter_subset_right) hx⟩
  apply hasFDerivAt_integral_of_dominated_of_fderiv_le (bound := fun _ ↦ B)
    (F' := fun x a ↦ fderiv 𝕜 (fun x ↦ F x a) x) (hv.mem_nhds hxv)
  · refine eventually_of_mem hu fun x hx ↦ ?_
    apply (hF₁.uncurry_left _ hx).aestronglyMeasurable_of_subset_isCompact hk hs hsk
  · apply (hF₁.uncurry_left _ hxu).integrableOn_of_subset_isCompact hk hs hsk hs'
  · apply (hF₃.uncurry_left _ hxu).aestronglyMeasurable_of_subset_isCompact hk hs hsk
  · filter_upwards [ae_restrict_mem hs] with a ha x hx using (hB (x, a) ⟨hx, hsk ha⟩).le
  · apply integrableOn_const hs'
  · filter_upwards [ae_restrict_mem hs] with a ha x hx
    apply DifferentiableAt.hasFDerivAt
    exact (hF₂ a (hsk ha) x (hvu hx)).differentiableAt (_root_.mem_nhds_iff.mpr ⟨_, hvu, hv, hx⟩)
```

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 16]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    (hk : IsCompact k) (hs' : μ s ≠ ⊤) (hsk : s ⊆ k)
+    (hF : ContDiffOn 𝕜 1 f.uncurry (u ×ˢ k)) :
+    HasFDerivAt (fun x => ∫ a in s, f x a ∂μ) (∫ a in s, fderiv 𝕜 (fun x ↦ f x a) x₀ ∂μ) x₀ := by
+  wlog hu' : IsOpen u with h
+  · have ⟨u', hu'⟩ := _root_.mem_nhds_iff.1 hu
+    exact h (hu'.2.1.mem_nhds hu'.2.2) hk hs' hsk (hF.mono <| prod_mono_left hu'.1) hu'.2.1
+  refine hasFDerivAt_integral_of_continuousOn_fderiv_of_t2Space hu hk hs' hsk hF.continuousOn
+    (fun a ha ↦ hF.differentiableOn_one.comp (by fun_prop)
+      fun x hx ↦ (⟨hx, ha⟩ : (x, a) ∈ _ ×ˢ _)) ?_
+  intro x hx
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:353]: Everything below this seems like it should be seperated out as a general lemma about `ContDiff`: for an `C^{n+1}` function its partial derivative is `C^n`

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean (hunk 11 above)
Comment (fpvandoorn) [reply Mathlib/Analysis/Calculus/ParametricIntegral.lean:404]: The next line fails.
It also works with 
```
set_option maxSynthPendingDepth 4 in
```
I'm not sure which one we prefer.

File: Mathlib/Analysis/Calculus/ParametricIntegral.lean [hunk 17]
```diff
@@ -252,6 +266,305 @@ theorem hasFDerivAt_integral_of_dominated_of_fderiv_le'' [NormedSpace ℝ H] {μ
...
+    have : ContDiffWithinAt 𝕜 m (fun x ↦ ∫ a in k ∩ toMeasurable μ s₀, f x a ∂μ) u x := by
+      apply hs _ inter_subset_left (hk.measurableSet.inter (measurableSet_toMeasurable _ _))
+      apply ((measure_mono inter_subset_right).trans_lt ?_).ne
+      rw [measure_toMeasurable]
+      exact mus₀.lt_top
+    convert this using 3
+    exact (Measure.restrict_inter_toMeasurable mus₀ hk.measurableSet hs₀).symm
+  apply IsCompact.induction_on (s := k)
+    (p := fun s₀ ↦ ∃ s, k ∩ s₀ ⊆ s ∧ s ⊆ k ∧ MeasurableSet s ∧ ∀ t ⊆ s, MeasurableSet t →
+      μ t ≠ ⊤ → ContDiffWithinAt 𝕜 m (fun x ↦ ∫ a in t, f x a ∂μ) u x) hk
```
Comment (fpvandoorn) [inline Mathlib/Analysis/Calculus/ParametricIntegral.lean:494]: [no action needed] weird: if you replace this by `refine hk.induction_on ?_ ?_ ?_ ?_` then the `grind` below fails, because we have beta-reduced function application.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 18]
```diff
@@ -175,6 +175,54 @@ theorem tendsto_integral_filter_of_norm_le_const {ι} {l : Filter ι} [l.IsCount
...
+    {α : Type*} [TopologicalSpace α] [MeasurableSpace α] [OpensMeasurableSpace α] {μ : Measure α}
+    {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {u : Set X} {k : Set α} (hk : IsCompact k)
+    (hk' : MeasurableSet k) (hk'' : μ k < ⊤) {f : X → α → E}
+    (hf : ContinuousOn f.uncurry (u ×ˢ k)) : ContinuousOn (fun x ↦ ∫ a in k, f x a ∂μ) u := by
+  refine fun x hx ↦ continuousWithinAt_parametric_integral hk hk' hk'' ?_ fun _ ha ↦ hf _ ⟨hx, ha⟩
+  refine eventually_nhdsWithin_of_forall fun x hx ↦
+    ContinuousOn.aestronglyMeasurable_of_isCompact ?_ hk hk'
+  exact hf.comp (f := fun a ↦ (x, a)) (by fun_prop) fun a ha ↦ ⟨hx, ha⟩
+
+lemma Continuous.parametric_integral {X : Type*} [TopologicalSpace X] [FirstCountableTopology X]
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:219]: Is this (roughly) a duplicate of [continuous_parametric_integral_of_continuous](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/Bochner/Set.html#continuous_parametric_integral_of_continuous)?

**Review by fpvandoorn — APPROVED** [review]
LGTM, but I have a few comments
